US06066720
7-Benzoylamino-3-(β-D-ribofuranosyl)-3H-1,2,3-triazolo[4,5-d]pyrimidine (10).
100 mg (0.37 mmol) of 7-amino-3-β-D-ribofuranosyl-3H-1,2,3-triazolo[4,5-d]pyrimidine are initially introduced in 5 ml of dry pyridine. 0.47 ml (3.7 mmol) of trimethylsilyl chloride is added dropwise to this solution under an argon atmosphere. After the mixture has been stirred at room temperature for half an hour (monitoring by TLC), 0.25 ml (2.0 mmol) of benzoyl chloride is added dropwise, and this reaction mixture is stirred at room temperature for 4 hours. It is then cooled down to 0-5° C. and 1 ml of water is added followed, 5 min later, by 2 ml of aqueous ammonia (25%); this mixture is then stirred for a further 30 min. The solvent is stripped off and the residue is then evaporated with toluene. The residue is taken up in 15 ml of a saturated solution of NaHCO3, and this mixture is extracted one with 25 ml of methylene chloride and several times with ethyl acetate. The combined organic phases are dried using Na2SO4.

reactant | 7-amino-3-β-D-ribofuranosyl-3H-1,2,3-triazolo[4,5-d]pyrimidine | 0.37 mmol, 100 mg | NC=1C2=C(N=CN1)N(N=N2)[C@H]2[C@H](O)[C@H](O)[C@H](O2)CO | C9H12N6O4
reactant | trimethylsilyl chloride | 3.7 mmol, 0.47 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | benzoyl chloride | 2.0 mmol, 0.25 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | ammonia | 2 ml | N | H3N
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 1 ml | O | H2O
product | 7-Benzoylamino-3-(β-D-ribofuranosyl)-3H-1,2,3-triazolo[4,5-d]pyrimidine | C(C1=CC=CC=C1)(=O)NC=1C2=C(N=CN1)N(N=N2)[C@H]2[C@H](O)[C@H](O)[C@H](O2)CO | C16H16N6O5
